US04587258
A. Ethyl 1-Benzyl-1,4,5,6-Tetrahydrocyclopenta[b]Pyrrole-2-Carboxylate
Add dropwise 3.9 gm of ethyl bromopyruvate in 50 ml of ethanol to a flask containing 3.46 gm of benzyliminocyclopentane and 2.0 g of triethylamine in 50 ml of ethanol at 0° C., stir for 2 hours, then heat to reflux for 2 hours. Concentrate the reaction mixture and partition between 1N HCl and ether. Dry the ether extract over magnesium sulfate, filter, concentrate under high vacuum to obtain a brown oil and distill in a kugelrohr at 190°-210°/0.1 mm to obtain the title compound of Part A as a yellow oil.

reactant | ethyl bromopyruvate | 3.9 gm | BrCC(C(=O)OCC)=O | C5H7BrO3
reactant | benzyliminocyclopentane | 3.46 gm | C(C1=CC=CC=C1)N=C1CCCC1 | C12H15N
reactant | triethylamine | 2.0 g | C(C)N(CC)CC | C6H15N
solvent | ethanol | 50 ml | C(C)O | C2H6O
solvent | ethanol | 50 ml | C(C)O | C2H6O
product | Ethyl 1-Benzyl-1,4,5,6-Tetrahydrocyclopenta[b]Pyrrole-2-Carboxylate | C(C1=CC=CC=C1)N1C2=C(C=C1C(=O)OCC)CCC2 | C17H19NO2
